US07598383B2
A mixture of 4-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (1.00 g, 4.64 mmol) and NCS (0.68 g, 5.10 mmol) in DMF (30 mL) was stirred for 1 hour. The reaction mixture was diluted with EtOAc and washed with 0.1 N HCl solution. The organic layer was dried (MgSO4) and concentrated under reduced pressure to give 1.10 g (95%) of 4,5-dichloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester.

reactant | 4-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 4.64 mmol, 1.00 g | C(C)OC(=O)C1=CN(C(C=C1Cl)=O)C | C9H10ClNO3
reactant | NCS | 5.10 mmol, 0.68 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,5-dichloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 1.10 g, 95% | C(C)OC(=O)C1=CN(C(C(=C1Cl)Cl)=O)C | C9H9Cl2NO3
